US07786165B2
(4-bromo-3,5-dimethylphenoxy)(tert-butyl)dimethylsilane
To a solution of 4-bromo-3,5-dimethylphenol (25.4 g, 126.2 mmol) and imidazole (9.5 g, 138.9 mmol) in N,N-dimethylformamide (300 mL) was added tert-butyldimethylchlorosilane (20.9 g, 138.9 mmol) under stirring at 0° C., and the mixture was stirred at room temperature for 5 hr. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-hexane/ethyl acetate=10/1) to give the title compound (38.7 g, yield 97%) as a colorless oil.

reactant | 4-bromo-3,5-dimethylphenol | 126.2 mmol, 25.4 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | imidazole | 138.9 mmol, 9.5 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 138.9 mmol, 20.9 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4-bromo-3,5-dimethylphenoxy)(tert-butyl)dimethylsilane | 38.7 g, yield 97% | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1C)C | C14H23BrOSi
